US08048887B2
5-(3-(1-(Dimethylamino)-2-methyl-1-oxopropan-2-ylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A solution of dimethylamine in THF (2 molar, 0.10 mL, 0.20 mmol) was added to 2-(3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzamido)-2-methylpropanoic acid (17 mg, 0.036 mmol) and HATU (15 mg, 0.039 mmol) in a 1 dram vial. DMF (0.3 mL) was added, the vial was capped, and the homogeneous solution was stirred at r.t. for 1 h, at which point DIPEA (50 μL, 0.29 mmol) was added. Stirring was continued for 3 h, at which point the reaction was filtered and purified directly by prep HPLC. Concentration of the collected fractions afforded the title compound as a white solid (13 mg, 71% yield). 1H NMR (500 MHz, CD3OD) δ ppm 8.09-8.17 (m, 1H) 7.90-7.98 (m, 3H) 7.86 (d, J=7.94 Hz, 1H) 7.79-7.84 (m, 1H) 7.63-7.72 (m, 2H) 7.57 (t, J=7.63 Hz, 1H) 7.20-7.32 (m, 2H) 3.14 (br. s., 3H) 2.98 (s, 6H) 1.61 (s, 6H). LC/MS was performed on a Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. LC/MS method: solvent A=5% CH3CN/95% H2O/10 mM NH4OAc, solvent B=95% CH3CN/5% H2O/10 mM NH4OAc, start % B=0, final % B=100, gradient time=2 min, stop time=3 min, flow rate=5 ml/min, column: XBridge C18 5 μm 4.6×50 mm; HPLC Rt=1.29 min, (ES+) m/z (MH+)=502. Analytical HPLC method: solvent A=5% CH3CN/95% H2O/0.1% TFA, solvent B=95% CH3CN/5% H2O/0.1% TFA, start % B=10, final % B=100, gradient time=15 min, stop time=18 min, flow rate=1 ml/min. Column: Waters Sunfire C-18, 3.5 μm 4.6×150 mm, Rt=14.80 min, purity=100%; column: Waters XBridge phenyl 3.5 μm 4.6×150 mm, Rt=10.37 min, purity=100%.

reactant | dimethylamine | CNC | C2H7N
reactant | THF | 0.20 mmol, 2 molar, 0.10 mL | C1CCOC1 | C4H8O
reactant | 2-(3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzamido)-2-methylpropanoic acid | 0.036 mmol, 17 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)NC(C(=O)O)(C)C)C=CC2 | C27H23FN2O5
reactant | HATU | 0.039 mmol, 15 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.29 mmol, 50 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 5-(3-(1-(Dimethylamino)-2-methyl-1-oxopropan-2-ylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 13 mg, 71% yield | CN(C(C(C)(C)NC(=O)C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)=O)C | C29H28FN3O4
